US06268391B1
4-bromo-2-nitrophenylacetic acid
A 30% hydrogen peroxide solution (4.95 mL, 0.04 mol) was added dropwise to a solution of 4-bromo-2-nitrophenylpyruvic acid (0.04 mol) and sodium hydroxide (5.3 g 0.1 mol) in water (175 mL) stirring at 0° C. The reaction solution was stirred for 1 h at 5° C. and then acidified with dilute HCl. The yellow precipitate was filtered and the crude product recrystallized from hexane and ethyl acetate to yield 8.4 g (75%) as a light beige solid; 1H-NMR (DMSO-d6): δ12.67 (br s, 1H), 8.28 (d, J=2.0 Hz), 7.97 (dd, 1H, J=9.0 Hz, 2.0 Hz), 7.55 (d, 1H, J=8.0 Hz 4.00 (s, 3H). MS (−ve) m/z: 259 (M−H).

reactant | hydrogen peroxide | 0.04 mol, 4.95 mL | OO | H2O2
reactant | 4-bromo-2-nitrophenylpyruvic acid | 0.04 mol | BrC1=CC(=C(C=C1)CC(C(=O)O)=O)[N+](=O)[O-] | C9H6BrNO5
reactant | sodium hydroxide | 0.1 mol, 5.3 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 175 mL | O | H2O
product | 4-bromo-2-nitrophenylacetic acid | BrC1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H6BrNO4
